US04952719
A mixture of 7.0 parts of anhydrous potassium fluoride and 5.0 parts of 4-chloro-3,5-dinitrobenzonitrile was heated and maintained at about 150° C., with stirring, for a period of about 6 hours, under a positive pressure of nitrogen. The reaction mixture, a viscous, dark brown liquid was filtered and washed with methylene chloride. Analysis of the filtrate by gas chromatographic techniques indicated a 69% conversion and a 5% yield of 4-fluoro-3,5-dinitrobenzonitrile.

reactant | potassium fluoride | [F-].[K+]
reactant | 4-chloro-3,5-dinitrobenzonitrile | ClC1=C(C=C(C#N)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2ClN3O4
product | 4-fluoro-3,5-dinitrobenzonitrile | 5% yield | FC1=C(C=C(C#N)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2FN3O4
